US05006159
2-Propionyl-3-hydroxy-5-(4-mercaptophenyl)-cyclohex-2-en-1-one
To 5 g (0.0163 mol) of 2-propionyl-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one in a flask cooled to in an ice-water bath was added 25 mL (0.177 mol) of trifluoroacetic anhydride dropwise over 5 minutes. The ice-water bath was removed and the solution stirred at ambient temperature for 3 hours. The solvent was removed in vacuo and the oil remaining was dissolved in 82 mL of 1N NaOH and the solution stirred at ambient temperature overnight. The mixture was diluted with 1200 mL of water, filtered and the filtrate acidified with 5 mL of concentrated HCl with the product precipitating as an oily solid. The product was dissolved in 150 mL of methylene chloride and the solution washed twice with 150 mL portions of water and dried over Na2SO4. Removal of the solvent in vacuo gave the above named product in a yield of 4.0 g (88.7 percent of theoretical).

reactant | 2-propionyl-3-hydroxy-5-(4-methylthiophenyl)cyclohex-2-en-1-one | 0.0163 mol, 5 g | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)SC)=O | C16H18O3S
reactant | trifluoroacetic anhydride | 0.177 mol, 25 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2-Propionyl-3-hydroxy-5-(4-mercaptophenyl)-cyclohex-2-en-1-one | C(CC)(=O)C=1C(CC(CC1O)C1=CC=C(C=C1)S)=O | C15H16O3S
